US07723369B2
{3-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester (55 mg, 0.1 mmol) was coupled with 4-n-butyl-phenylboronic acid (36 mg, 0.2 mmol) according to general procedure G to give {3-[2-(4′-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester.

reactant | {3-[2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | 0.1 mmol, 55 mg | COC(CNC1=CC(=CC=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)Br)=O | C25H20BrCl2N3O2
reactant | 4-n-butyl-phenylboronic acid | 0.2 mmol, 36 mg | C(CCC)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | {3-[2-(4′-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-acetic acid methyl ester | COC(CNC1=CC(=CC=C1)N1C(=NC(=C1)C1=C(C=C(C=C1)Cl)Cl)CC1=CC=C(C=C1)C1=CC=C(C=C1)CCCC)=O | C35H33Cl2N3O2
